US08895313B2
4-Dimethylamino-N-[4-(6-methylbenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Amination section using sodium cyanoborohydride (0.44 g, 6.95 mmol), 4-amino-N-[4-(6-methylbenzothiazol-2-yl)-phenyl]-benzamide (0.50 g, 1.39 mmol) and paraformaldehyde (0.42 g, 13.9 mmol) in AcOH (8 ml) to give the title compound (0.04 g, 7%) as a colourless solid after work-up and flash chromatography (3:1 Hexane/EtOAc).

reactant | sodium cyanoborohydride | 6.95 mmol, 0.44 g | C(#N)[BH3-].[Na+]
reactant | 4-amino-N-[4-(6-methylbenzothiazol-2-yl)-phenyl]-benzamide | 1.39 mmol, 0.50 g | NC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)C)C=C1 | C21H17N3OS
reactant | paraformaldehyde | 13.9 mmol, 0.42 g | C=O | CH2O
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | AcOH | 8 ml | CC(=O)O | C2H4O2
product | 4-Dimethylamino-N-[4-(6-methylbenzothiazol-2-yl)-phenyl]-benzamide | 0.04 g, 7% | CN(C1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)C)C=C1)C | C23H21N3OS
